US07192968B2
6-(tert-Butoxycarbonyl)-5,7-dihydro-2-methylsulfonyl-pyrrolo[3,4-d]pyrimidine
m-Chloroperbenzoic acid (1.99 g) was added to a dichloromethane solution (20 ml) of 6-(tert-butoxy-carbonyl)-5,7-dihydro-2-methylthiopyrrolo[3,4-d]-pyrimidine (1.08 g) under ice cooling, and the mixture was stirred for 5 hours. A saturated aqueous solution of sodium sulfite, a saturated aqueous solution of sodium hydrogen carbonate and dichloromethane were added to separate an organic layer. The organic layer was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, hexane was added to the residue, and powder deposited was collected by filtration to obtain the title compound (1.09 g) as colorless powder.

reactant | m-Chloroperbenzoic acid | 1.99 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-(tert-butoxy-carbonyl)-5,7-dihydro-2-methylthiopyrrolo[3,4-d]-pyrimidine | 1.08 g | C(C)(C)(C)OC(=O)N1CC=2N=C(N=CC2C1)SC | C12H17N3O2S
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-(tert-Butoxycarbonyl)-5,7-dihydro-2-methylsulfonyl-pyrrolo[3,4-d]pyrimidine | 1.09 g | C(C)(C)(C)OC(=O)N1CC=2N=C(N=CC2C1)S(=O)(=O)C | C12H17N3O4S
